US08629168B2
d) 2-Amino-6-bromo-phenol
A solution of 5.3 g (22.7 mmol) 2-bromo-6-nitro-phenol in 100 ml MeOH:THF=1:1 is hydrogenated in the presence of 0.2 g Ra—Ni (in EtOH, Degussa B113W). The reaction mixture is filtered (2 glass fiber filters used) and the filtrate is concentrated in vacuo to afford the crude title compound.

reactant | 2-bromo-6-nitro-phenol | 22.7 mmol, 5.3 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | THF | C1CCOC1 | C4H8O
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Ra—Ni | 0.2 g | [Ni] | Ni
product | 2-Amino-6-bromo-phenol | NC1=C(C(=CC=C1)Br)O | C6H6BrNO
